US04287335
In 6 ml of methanol, 1.50 g of 1,2-dimethylpyridinium iodide and 1.50 g of o-(2,2-dimethoxyethoxy)benzaldehyde. The resultant solution, with two drops of piperidine added thereto, was refluxed for five hours and then left to stand and cool off. The crystals which deposited consequently were collected and thoroughly washed with acetone. Consequently, there was obtained 2.36 g of 1-methyl-2-[o-(2,2-dimethoxyethoxy)-styryl]pyridinium iodide which melted at 169°~173° C. This product showed the highest absorption at 353 nm (ε=1.78×104). The infrared absorption spectrum (KBr) showed peaks at 1630, 1610, 1595, 1567, 1515, 1500, 1450, 1280, 1248, 1130, 1065, 971, 780, 760 and 750 cm-1. The yield was 87%.

reactant | 1,2-dimethylpyridinium iodide | 1.50 g | [I-].C[N+]1=C(C=CC=C1)C
reactant | o-(2,2-dimethoxyethoxy)benzaldehyde | 1.50 g | COC(COC1=C(C=O)C=CC=C1)OC | C11H14O4
solvent | methanol | 6 ml | CO | CH4O
catalyst | piperidine | two drops | N1CCCCC1 | C5H11N
product | 1-methyl-2-[o-(2,2-dimethoxyethoxy)-styryl]pyridinium iodide | 2.36 g, yield was 87% | [I-].C[N+]1=C(C=CC=C1)C=CC1=C(C=CC=C1)OCC(OC)OC | InChI=1S/C18H22NO3.HI/c1-19-13-7-6-9-16(19)12-11-15-8-4-5-10-17(15)22-14-18(20-2)21-3;/h4-13,18H,14H2,1-3H3;1H/q+1;/p-1
